US08633312B2
2-Chloro-8-(2-morpholin-4-ylethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (17)
For the synthesis of the title compound, 0.44 g (1.69 mmol) of 2-chloro-8-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 0.345 g (1.86 mmol) of 4-(2-chloroethyl)morpholine hydrochloride and 0.93 g (6.75 mmol) of K2CO3 in 15 ml of acetonitrile are reacted by method Q. C21H22ClNO3(Mr=371.87)

reactant | 2-chloro-8-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 1.69 mmol, 0.44 g | ClC1=CC2=C(C(C3=C(CC2)C=C(C=C3)O)=O)C=C1 | C15H11ClO2
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 1.86 mmol, 0.345 g | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 6.75 mmol, 0.93 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2-Chloro-8-(2-morpholin-4-ylethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | ClC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OCCN3CCOCC3)=O)C=C1 | C21H22ClNO3
